US07705004B2
1-(4-(4-(1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperidin-4-ol
To a solution of 1-(4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperidin-4-ol (11 mg, 0.018 mmol) in methanol (MeOH) (1 mL), aq. 1N KOH (0.50 mL, 0.50 mmol) was added. The mixture was heated at 60° C. for 24 h. It was then concentrated in vacuo. The residue was acidified with acetic acid (HOAc) (1.0 mL) before being purified by HPLC to give the title compound (1 mg). MS 441.1 (M+H) (Compound 7-1).

reactant | 1-(4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperidin-4-ol | 0.018 mmol, 11 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCC(CC1)O)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C31H30N8O3S
reactant | KOH | 0.50 mmol, 1N, 0.50 mL | [OH-].[K+]
solvent | methanol | 1 mL | CO | CH4O
product | 1-(4-(4-(1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperidin-4-ol | 1 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCC(CC1)O)NC=C2 | C24H24N8O
